US09402841B2
Step E: 8-chloro-1-oxo-1,2-dihydroisoquinoline-3-carboxamide
To a vessel containing NH3/MeOH (10 mL) was added ethyl 8-chloro-1-oxo-1,2-dihydroisoquinoline-3-carboxylate (500 mg, 1.99 mmol). The vessel was sealed and the resulting solution was stirred at RT for 1 hour. The reaction mixture was subsequently concentrated in vacuo to give the title compound, which was used without further purification (0.5 g, 98%). ESI-MS m/z [M+H]+ 223.1.

reactant | ethyl 8-chloro-1-oxo-1,2-dihydroisoquinoline-3-carboxylate | 1.99 mmol, 500 mg | ClC=1C=CC=C2C=C(NC(C12)=O)C(=O)OCC | C12H10ClNO3
reactant | NH3 MeOH | 10 mL | N.CO
product | 8-chloro-1-oxo-1,2-dihydroisoquinoline-3-carboxamide | ClC=1C=CC=C2C=C(NC(C12)=O)C(=O)N | C10H7ClN2O2
